US05223498
A mixture of 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide (1.7 g) prepared as described in Example 166, 2-methylthioethylamine (1.8 g) and ethanol (25 ml) was heated at 90°-95° C. for 22 hours to give 1-(2-methylthioethyl)-2-(2-morpholinophenyl)guanidine (m.p. 115°-116° C.) which was recrystallised from hexane.

reactant | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | 1.7 g | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=N
reactant | 2-methylthioethylamine | 1.8 g | CSCCN | C3H9NS
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(2-methylthioethyl)-2-(2-morpholinophenyl)guanidine | CSCCNC(=NC1=C(C=CC=C1)N1CCOCC1)N | C14H22N4OS
